Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Pentothal / methiolate / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
TRANSCATHETER AORTIC VALVE REPLACEMENT - TRANSFEMORAL: ___ 
 
Commercial Use: High/Extreme Risk Aortic Stenosis 
 
Procedures: Transaortic transcatheter aortic valve replacement 
 
 Transcatheter aortic valve replacement 
 Catheter Placement, ___ Fr Sheath left Femoral Artery 
 Catheter Placement, ___ R Femoral Vein 
 Catheter Placement, ___ Fr Sheath R Femoral Artery 
 Aortography, Ascending Aorta 
 
Percutaneous Aortic Valve Replacement 
 
 Co-Surgeon: ___, MD 
 Co-Surgeon: ___, MD 
 Co-Surgeon: ___, MD  
 
Total Contrast (mls): 120 
 
Total Fluoro Time: 22 mins 
Effective Dose: 885 mGy 
 
 
Devices Used: 
Valve: ___ 3 ___ 
 
 
The case complexity required a multidisciplinary approach with 
Cardiac Surgery and Interventional Cardiology.  
 
Vascular access was obtained in the right femoral artery and 
vein 
using vascular ultrasound techniques. The right femoral artery 
was used to advance a ___ Fr Pigtail catheter to the right 
coronary 
sinus. Aortography was performed using 15 cc contrast injection. 

 
Vascular access was obtained in the right femoral vein using 
ultrasound guidance and a ___ Fr temporary pacemaker was placed in 

the right ventricle.  
 
Vascular access was obtained in the left femoral artery using 
vascular ultrasound guidance. A ___ Fr E-Sheath was 
advanced in the right femoral artery. 
 
Unfractionated heparin was given to achieve an ACT 
> 250 seconds. 
 
The aortic valve was crossed and a Pigtail catheter was advanced 

into the left ventricle.  
 
Simultaneous left ventricular and aortic pressures were recorded 

and demonstrated severe aortic stenosis with mean gradient of 30 

mmHg 
 
 
 
The 0.035" exchange "J" wire was exchanged for a 0.035" 
Extra stiff wire and the Pigtail was removed.  
 
A 29 ___ 3 was the advanced across iliofemoral and aortic 
arch to the aortic valve without difficulty. Using aortography 
and placement of a Pigtail catheter to demonstrate the position 
of the ___ 3, it was deployed with great result by angio, 
hemodynamics, and TEE (trace AI). There was interrupted pacing 
due to VVI setting and valve moved up slightly but still sealed 
the annulus  
 
 
There was no evidence of coronary compromise following 
the procedure.  
 
Protamine was given. 
 
The left groin was closed with a two Proglide in a Pre-Close 
fashion and an angioseal 
 
The right femoral artery was closed with a ___ Fr Angioseal.  
 
The patient was transported to the PACU in stable condition. 

 
History of Present Illness:
___ male patient with history of renal
transplant ___ for ___, CAD s/p recent DES to LAD ___, AS
undergoing workup for ___, DVT/PE on lifelong a/c was recently
admitted to ___ from ___ for enterococcus UTI. 

He reports that he has noticed a recurrence of dyspnea on
exertion and several episodes of chest discomfort responsive to
SL nitroglycerin, reminiscent of what he felt in ___ prior to
his PCI.  He has known aortic stenosis with his most recent echo
revealing a progression in his AS as compared to his echo in
___. He was deemed high risk for AVR due to his renal status 
and
is referred for ___ today.
 

 
Past Medical History:
1.  Hypertension
2.  Dyslipidemia 
3.  Polycystic kidney disease s/p right renal transplant in ___
   (has left AV fistula)
4.  Prior BK infection s/p treatment with cidofovir
5.  Multiple prior UTI's including an episode of sepsis
6.  Recent urinary retention and hematuria after a cystoscopy.
7.  Evaluation concerning for prostate cancer- Biopsy scheduled
8.  DVT/PE on lifelong anticoagulation with Coumadin
9.  Sleep apnea (uses BiPAP)
10. Obesity
11. Gout
12. Asbestosis
13. PUD
14. Constipation
15. s/p multiple hernia repairs
16. s/p two right hip surgeries including replacement c/b staph
17. AS
18. CAD. ___ cath revealing a 90% dCx involving the origin of a
    large LPL branch. s/p 2.5 x 15 mm BMS. s/p Synergy DES to 
LAD
___
 
Social History:
___
Family History:
Sister had CHF. She died in her late ___. 
Mother had valve disease s/p replacement.
Father had ___
 
Physical Exam:
EKG:  SR, Borderline 1st degree AVB, RBBB
 Tele: ___, SR, RBBB 
 VS: Temp 97.6, BP 160's/50's, HR 62, RR 16, O2 sats 98 % on 3L
NC. 
 
Seen the pt in PACU post ___. 
 Gen: Obese gentleman lying flat in bed in PACU, in NAD 
 Neuro:  A&O x 4. Speech clear. non focal
 Neck/JVP:  supple. JVP not assessed given pt lying flat
 CV:  RRR. soft systolic murmur 
 Chest: Lungs diminished anteriorly. No rales, rhonchi or 
wheezes
heard. Respirations unlabored  
 ABD:  Obese. Soft, non-tender. 
 Extr: B/L ___ with trace edema R>L. B/L ___ by Doppler. 
 Skin: Chronic venous stasis changes to both ___ 
 Access sites: Right groin site without ooze or hematoma. Left
groin with small steady ooze. Manual pressure applied for 10
mins.
=========================
Discharge PE:
Admit Weight: 307.01 lbs
Today's Weight: 294.8 lbs
 
EKG: SR, RBBB 91
Tele: SR PVCs
 
 Gen: Obese gentleman sitting up in bed, in NAD 
 Neuro:  A&O x 4. Speech clear. non focal
 Neck/JVP:  supple. JVP 10 cm
 CV:  RRR. soft systolic murmur 
 Chest: Rales in bases bilaterally, no rhonchi or wheezes
heard. Respirations unlabored  
 ABD:  Obese. Soft, non-tender. 
 Extr: B/L ___ with trace edema R>L. Skin warm to touch,
sensations intact. B/L ___ by Doppler. 
 Skin: Chronic venous stasis changes to both ___ 
 Access sites: Right and left groin site without ooze, hematoma
or bruit. Moderate ecchymosis on both sites. Small pea size lump
palpated on left groin site (?angioseal).
 
Pertinent Results:
CONCLUSION:
Global left ventricular systolic function is hyperdynamic. The 
visually estimated left ventricular ejection fraction is 90%. 
Normal right ventricular cavity size with normal free wall 
motion. An ___ bioprosthesis is present. The 
prosthesis is well seated with normal gradient. The mitral 
leaflets are mildly
thickened. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is trivial 
tricuspid regurgitation. The pulmonary artery systolic pressure 
could not be estimated.

IMPRESSION: Poor image quality

MEASUREMENTS:
LEFT VENTRICLE (LV)
Visual Ejection
Fraction: 90% (nl
M:52-72;F:54-74)
Stroke Volume: 80mL
Cardiac Output: 7.2L/min (3.2.2.3)
Cardiac Index: 2.7L/min/m (nl>=2.0
AORTIC VALVE (AV)
Peak Velocity: 2.1m/sec (nl<=2.0)
Peak Gradient: 18mmHg
Mean Gradient: 10mmHg
AV VTI: 35cm
LV Outflow Tract (LVOT)
Diam: 2.1cm
LVOT VTI: 23cm
LVOT Peak Velocity: 1.4m/sec
Dimensionless Index: 0.67
Valve Area (Continuity): 2.3cm
MITRAL VALVE (MV)
Peak E: 1.0m/sec
E Deceleration: 276ms (nl 140-250)
Peak A: 1.7m/sec
Peak E/A: 0.59
Pressure ___ Time: 80ms
Area (P1/2Time): 2.8cm

FINDINGS:
LEFT VENTRICLE (LV): The visually estimated left ventricular 
ejection fraction is 90%. Hyperdynamic
ejection fraction.
RIGHT VENTRICLE (RV): Normal cavity size. Normal free wall 
motion.
AORTIC VALVE (AV): ___ prosthesis. Well seated 
prosthesis. Normal prosthesis gradient.
MITRAL VALVE (MV): Mild thickening leaflets. Trivial 
regurgitation.
TRICUSPID VALVE (TV): Normal leaflets. Trivial regurgitation. 
Undertermined pulmonary artery systolic
pressure
ADDITIONAL FINDINGS: Poor acoustic windows. Patient difficult to 
position.
============================
Chest xray: ___
IMPRESSION:  
No evidence of acute cardiopulmonary process. 
===========================
TEE: ___
Conclusions   
 The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). The calculated cardiac output by continuity equation 
is 4.3L/min. Right ventricular chamber size and free wall motion 
are normal. The descending thoracic aorta is mildly dilated. 
There are complex (>4mm) atheroma in the descending thoracic 
aorta. No thoracic aortic dissection is seen. 

 There are three aortic valve leaflets. The aortic valve 
leaflets are severely thickened/deformed. There is severe aortic 
valve stenosis (valve area 0.6cm2). The mitral valve leaflets 
are mildly thickened. Mild (1+) mitral regurgitation is seen. 

 After valve deployment, a bioprosthetic valve is seen in the 
aortic position. The valve appears well-seated with normally 
mobile leaflets. There are no apparent paravalvular leaks or AI. 
The peak pressure across the aortic valve is 10mmHg, the mean 
gradient is 4mmHg with cardiac output of 4.9L/min.
 
==========================
LABS:
___ 06:30AM BLOOD WBC-5.7 Hct-40.3 Plt ___
___ 05:45AM BLOOD WBC-6.1 RBC-5.07 Hgb-13.0* Hct-41.5 
MCV-82 MCH-25.6* MCHC-31.3* RDW-15.9* RDWSD-46.1 Plt ___
___ 12:51PM BLOOD WBC-4.9 RBC-4.90 Hgb-12.7* Hct-40.4 
MCV-82 MCH-25.9* MCHC-31.4* RDW-15.5 RDWSD-46.1 Plt ___
___ 06:30AM BLOOD ___
___ 05:45AM BLOOD ___
___ 12:51PM BLOOD ___ PTT-125.0* ___
___ 06:30AM BLOOD UreaN-19 Creat-1.2 Na-142 K-4.2
___ 05:45AM BLOOD Glucose-126* UreaN-18 Creat-1.2 Na-140 
K-4.3 Cl-105 HCO3-23 AnGap-12
___ 12:51PM BLOOD Glucose-137* UreaN-21* Creat-1.2 Na-142 
K-3.9 Cl-105 HCO3-21* AnGap-16
___ 06:30AM BLOOD Mg-2.0
___ 05:45AM BLOOD Calcium-9.8 Phos-2.8 Mg-2.1
___ 12:51PM BLOOD Calcium-10.0 Phos-3.3 Mg-2.0
___ 05:45AM BLOOD rapmycn-5.___ male patient with history of AS, renal transplant 
___ for ___, CAD s/p recent DES to LAD ___, DVT/PE on 
lifelong a/c presented yesterday for ___. 
 
 # Aortic stenosis: s/p 29 ___ ___. Pre- ___ echo: 
peak velocity-3.6, peak gradient 52, mean gradient 29. ___ 
TTE: peak gradient-18, mean gradient 10, valve area 2.3 cm2
 - Anticoagulation plan: Continue aspirin 81 mg, Plavix 75 mg 
daily and Coumadin (discussed with Dr. ___ may drop ASA 
after Coumadin in therapeutic (interventional attending, ___ 
also in agreement with plan
 - Resume lovenox bridge on discharge (PCP ___
 - Restart Lasix 10 mg PO every other day if tolerates
 - Restart metoprolol succinate XL 25 mg daily 
 - Monitor fluid status: low sodium/fluid restriction, daily 
weights, strict I&O. 
 - prophylactic abx on discharge
 - follow up per structural heart team next month
 - follow up with Dr. ___ month
 - follow up with PCP, patient to schedule

 # Diarrhea: was on recent abx for UTI with last dose ___. says 
diarrhea stopped for 2 days however was given abx after ___ and 
diarrhea has since resumed. 
 - close monitoring of stool output, may need to hold Lasix if 
diarrhea persists

 # Hypotension: in the setting of Lasix and diarrhea on day of 
discharge. He was asymptomatic. BP normalized prior to 
discharge. Discussed holding ___ if diarrhea persists and to 
see PCP as another stool sample may be needed. 

 # S/P renal transplant: Renal transplant in ___ for ___. 
Renal following while in patient. creatinine stable at 1.2. 
Sirolimus level 5.8
 - Continue Mycophenolate Mofetil 500 mg PO BID, silolimus 1.5 
mg
daily
 - Continue Bactrim po ___ 

 # Recent Enterococcus UTI: Was reently admitted for 
Enterococcus UTI. Was discharged on Augmentin 875mg BID for a 14 
day course (last day ___. Completed the course per pt and 
his wife. Has prior hx of UTI's and is following with urology as 
an outpatient.
 
 # ___: Patient was found to have a pre-renal azotemia during 
recent hospitalization in the setting of his UTI and decreased 
PO intake in the setting of infection, with max Cr 1.4; Creat 
1.2 today.
 - follow up with PCP
 
 # CAD: 
 - Continue ASA/ Plavix until INR therapeutic then may be able 
to drop ASA 
 - resume alicrocumab on discharge

 # HTN: stable, has been normotensive and even a little 
hypotensive
 - Restart lisinopril today 

 # DVT/PE: Hx of DVT/PE and is on life long anticoagulation with 
Coumadin. Coumadin dosing managed by Dr. ___ at 
___. Coumadin has been on hold since ___ and has been on
sq lovenox pre- ___.
 - Coumadin 15mg tonight and tomorrow
 - Dose Coumadin daily. Goal INR ___
 - INR recheck on ___
 
 # Sleep apnea: Uses BiPAP at home. Pt has own machine in 
hospital.
 - continue BiPAP at night

 # Dyslipidemia: ___ Cholest-181, Triglyc-353, HDL-42,
CHOL/HD-4.3, LDLcalc- 68
 - resume alirocumab 150 mg/mL subcutaneous q2weeks on discharge
  
 # Gout: 
 -Continue allopurinol while monitoring Cr

 # PROPHYLAXIS:  
 - DVT prophylaxis with: Coumadin/heparin sq 
 - Pain management with: Tylenol
 - Bowel regimen with senna and colace PRN
 
 # Emergency contact/HCP: Wife ___ ___ 
 
 # Code status: Full code for ___ procedure. See note in OMR 
for reversal of his MOLST form.  
       
 # Transitional issues: prophylactic abx at discharge
 
 # DISPO: DC home with wife
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Mycophenolate Mofetil 500 mg PO BID 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
8. Pantoprazole 20 mg PO Q24H 
9. Sirolimus 1.5 mg PO DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO 3X/WEEK (___) 
11. Tamsulosin 0.8 mg PO QHS 
12. Warfarin 10 mg PO DAILY16 
13. alirocumab 150 mg/mL subcutaneous q2weeks 
14. Clobetasol Propionate 0.05% Cream 1 Appl TP BID PRN 
psoriasis 
15. Furosemide 10 mg PO DAILY X 2 DAYS leg swelling 
16. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Furosemide 10 mg PO EVERY OTHER DAY leg swelling  
2.  ___  MD to order daily dose PO DAILY16  
3.  alirocumab 150 mg/mL subcutaneous q2weeks  
4.  Allopurinol ___ mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID PRN 
psoriasis  
7.  Clopidogrel 75 mg PO DAILY  
8.  Lisinopril 10 mg PO DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Mycophenolate Mofetil 500 mg PO BID  
12.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
13.  Pantoprazole 20 mg PO Q24H  
14.  Sirolimus 1.5 mg PO DAILY 
Daily dose to be administered at 6am  
15.  Sulfameth/Trimethoprim SS 1 TAB PO 3X/WEEK (___)  
16.  Tamsulosin 0.8 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
aortic stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ because you had transcatheter 
aortic valve replacement (___).

Continue all your current medications with the following 
changes:
-Continue Plavix 75mg daily until otherwise directed.
-Continue aspirin 81mg daily until your INR is therapeutic. Dr. 
___ doctor that put your stent in back in ___ agrees 
that once your INR is therapeutic and stable, it is ok to stop 
the aspirin. Please discuss this plan with Dr. ___ the 
___ Heart Team before you make these changes. 
-Resume lovenox as directed by your ___ clinic. It seems 
they directed you to take 0.45ML 2 TIMES A DAY (of a 150 mg/ml 
syringe.) Continue lovenox until your ___ clinic says its 
ok to stop.
-Resume Coumadin tonight. Your INR today was 1.1. Take Coumadin 
15mg tonight and ___ night and have INR rechecked on ___.
-Start Lasix 10mg every other day until you talk with the 
Structural Heart Team. Start this medication on ___. They 
will be calling you after discharging and may decrease the 
frequency even more. 
-Take amoxicillin 2 gram 1 hour prior to any dental cleaning or 
dental procedure.  Bacteria in your mouth can travel to your new 
heart valve and cause an infection. This antibiotic will help to 
prevent from happening.

If your diarrhea persists after discharge you may want to skip 
your Lasix dose if it is scheduled that day.  The combination of 
diarrhea and the effects of the Lasix pill can cause your blood 
pressure to go too low.  I recommend that you get a new blood 
pressure machine. Omron is a good product and you should be able 
to get it at stores like ___.

It is very important to take all of your heart healthy 
medications. In particular, you are now taking aspirin and 
clopidogrel (also known as Plavix). These two medications keep 
blood clots from forming on the new valve. If you stop these 
medications or miss ___ dose, you risk causing a blood clot 
forming on your new valve. This could cause it to malfunction 
and it may be life threatening. Please do not stop taking either 
medication without taking to your heart doctor, even if another 
doctor tells you to stop the medications.

It is very important to take all of your heart healthy 
medications. In particular, you are now taking aspirin. This 
medication helps to keep blood clots from forming on the new 
valve. If you stop this medication or miss ___ dose, you risk 
causing a blood clot forming on your new valve. This could cause 
it to malfunction and it may be life threatening. Please do not 
stop taking this medication without taking to your heart doctor, 
even if another doctor tells you to stop the medications.

You will need prophylactic antibiotics for the next 6 months 
prior to any dental procedure. Please inform your dentist about 
your recent cardiac procedure and whether the dental procedure 
is necessary. If it is, please inform your cardiologist and have 
your dentist or primary care doctor prescribe amoxicillin 2 gram 
once, 1 hour prior to the procedure.

Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change.

We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.

If you have any urgent questions that are related to your 
recovery from your medical issues or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.

It was a pleasure to take care of you. We wish you the best with 
your health!

Your ___ Cardiac Care Team
 
Followup Instructions:
___